US04348399
As in the method of Example 21, 4-(hexadecylamino) hydrocinnamoyl chloride hydrochloride is treated with 2-dimethylaminoethanol to provide 2-dimethylaminoethyl 4-(hexadecylamino)hydrocinnamate.

reactant | 4-(hexadecylamino) hydrocinnamoyl chloride hydrochloride | Cl.C(CCCCCCCCCCCCCCC)NC1=CC=C(CCC(=O)Cl)C=C1
reactant | 2-dimethylaminoethanol | CN(CCO)C | C4H11NO
product | 2-dimethylaminoethyl 4-(hexadecylamino)hydrocinnamate | C(CCCCCCCCCCCCCCC)NC1=CC=C(CCC(=O)OCCN(C)C)C=C1 | C29H52N2O2
